US06723722B1
4-Chloro-2-methoxymethylpyridine
A mixture of 4-chloro-2-chloromethylpyridine hydrochloride (0.43 g), sodium methoxide (1.11 g) and methanol (15 ml) was stirred at room temperature for 10 hours and at 70° C. for 7 hours. The reaction mixture was concentrated, and the residue was combined with water and methylene chloride, and the organic phase was separated. After washing with saturated aqueous sodium bicarbonate followed by drying and concentrating, a title compound (0.28 g) was obtained as a tan oil.

reactant | 4-chloro-2-chloromethylpyridine hydrochloride | 0.43 g | Cl.ClC1=CC(=NC=C1)CCl
reactant | sodium methoxide | 1.11 g | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 4-Chloro-2-methoxymethylpyridine | 0.28 g | ClC1=CC(=NC=C1)COC | C7H8ClNO
